US08372306B2
In a reactor under nitrogen atmosphere, 25 mL of THF was added to 7.7 g of methoxymethyltriphenylphosphonium chloride, and the mixture was cooled to −20° C., to which 2.5 g of t-BuOK was added, followed by stirring for 1 hour A solution containing 5.0 g of 4-(4-ethoxy-2,3-difluorophenyl)cyclohexane-carboaldehyde dissolved in 50 mL of THF was added dropwise thereto, followed by stirring for 1 hour. The temperature of the reaction mixture was increased to room temperature, and 100 mL of water was added to the reaction mixture, followed by extracting three times with 100 mL of toluene. The resulting organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was concentrated to about 100 mL under reduced pressure, and the concentrated solution was placed in 500 mL of toluene, followed by removing deposited solid matters. The solvent was distilled off from the resulting solution under reduced pressure, and the residue was purified by silica gel column chromatography to provide 4.9 g of 1-ethoxy-2,3-difluoro-4-[4-(2-methoxyvinyl)-cyclohexyl]benzene.

reactant | methoxymethyltriphenylphosphonium chloride | 7.7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 2.5 g | CC(C)(C)[O-].[K+]
reactant | 4-(4-ethoxy-2,3-difluorophenyl)cyclohexane-carboaldehyde | 5.0 g | C(C)OC1=C(C(=C(C=C1)C1CCC(CC1)C=O)F)F | C15H18F2O2
reactant | water | 100 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-ethoxy-2,3-difluoro-4-[4-(2-methoxyvinyl)-cyclohexyl]benzene | 4.9 g | C(C)OC1=C(C(=C(C=C1)C1CCC(CC1)C=COC)F)F | C17H22F2O2
